US04474793
Methyl 3-acetylthio-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate
0.064 g of methyl 3-acetylthio-8-oxo-4,5-dithia-1-azabicyclo[4,2,0]oct-2-ene-2-carboxylate was dissolved in 1 ml of deuterochloroform and 0.063 g of triphenylphosphine added. TLC and NMR analysis indicated complete conversion of starting material to product. The crude product was chromatographed on silica gel using ethyl acetate/hexane as eluant to give 0.035 g (61%) of purified product.

reactant | methyl 3-acetylthio-8-oxo-4,5-dithia-1-azabicyclo[4,2,0]oct-2-ene-2-carboxylate | 0.064 g | C(C)(=O)SC1=C(N2C(CC2SS1)=O)C(=O)OC | C9H9NO4S3
reactant | triphenylphosphine | 0.063 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | deuterochloroform | 1 ml | [2H]C(Cl)(Cl)Cl | CHCl3
product | Methyl 3-acetylthio-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | 0.035 g, 61% | C(C)(=O)SC1=C(N2C(CC2S1)=O)C(=O)OC | C9H9NO4S2
